US07300935B2
Production of 3-methoxy-2-nitropyridine
The similar reaction as described in Reference Example 9 by using 2-nitro-3-hydroxypyridine (7.0 g), potassium carbonate (6.91 g) and methyl iodide (4.67 ml) gave the title compound (7.5 g) as crystalline powders.

reactant | 2-nitro-3-hydroxypyridine | 7.0 g | [N+](=O)([O-])C1=NC=CC=C1O | C5H4N2O3
reactant | potassium carbonate | 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.67 ml | CI | CH3I
product | 3-methoxy-2-nitropyridine | 7.5 g | COC=1C(=NC=CC1)[N+](=O)[O-] | C6H6N2O3
